* AD8663 SPICE Macro-model Typical Values
* Description: Amplifier
* Generic Desc: 5/16V, CMOS, OP, Low Noise, S SPLY, 1X
* Developed by: HH - ADSJ
* Revision History: 08/10/2012 - Updated to new header style
* 1.0 (04/2008)
* Copyright 2008, 2012 by Analog Devices
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement.  Use of this model
* indicates your acceptance of the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
*    
* Parameters modeled include: VSY=16V, T=25°C
*
* END Notes
*
* Node Assignments
*                       noninverting input
*                       |   inverting input
*                       |   |    positive supply
*                       |   |    |   negative supply
*                       |   |    |   |   output
*                       |   |    |   |   |
*                       |   |    |   |   |
.SUBCKT AD8663          1   2   99  50  45
*
* INPUT STAGE
*
M1   4  7  8  8 PIX L=2E-6 W=2.894E-04
M2   6  2  8  8 PIX L=2E-6 W=2.894E-04
RD1  4 50 5.333E+03
RD2  6 50 5.333E+03
C1   4  6 1.300E-11;
I1  99  8 75.00E-06
V1   9  8 1.602E+00
D1   9 99 DX 
EOS  7  1 POLY(4) (73,98) (22,98) (81,98) (83,98) 1.10E-014 1 1 1 1
IOS  1  2 5.00E-11
*
* CMRR=87dB, POLE AT 14 kHz
*
E1  72 98 POLY(2) (1,98) (2,98) 0 4.786E-03 4.786E-03
R10 72 73 1.137E+01
R20 73 98 5.305E-02
C10 72 73 1.00E-06
*
* PSRR=95dB, POLE AT 200 Hz
*
EPSY 21 98 POLY(1) (99,50) -2.128+00 0.133E+00
RPS1 21 22 1.061E+03
RPS2 22 98 1.592E-01
CPS1 21 22 1.000E-06
*
* VOLTAGE NOISE REFERENCE OF 20nV/rt(Hz)
*
VN1 80 98 0
RN1 80 98 16.45E-3
HN  81 98 VN1 1.910E+01
RN2 81 98 1
*
* FLICKER NOISE CORNER = 200 Hz
*
DFN 82 98 DNOISE
VFN 82 98 DC 0.6551
HFN 83 98 POLY(1) VFN 1.00E-03 1.00E+00
RFN 83 98 1
*
* INTERNAL VOLTAGE REFERENCE
*
EREF 98  0 POLY(2) (99,0) (50,0) 0 0.5 0.5
GSY  99 50 POLY(1) (99,50) -18.60E-06 1.110E-06
*
* GAIN STAGE
*
G1 98 30 (4,6) 1.427E-03
R1 30 98 1.000E+06
CF 30 31 1.544E-09;  1.595E-9
RZ 455 31 5.639E-00
EZ 455 98  (45 98) 1
EVP  32 98 POLY(1) (99,50) -1.10 +0.38E-00; 
EVN  33 98 POLY(1) (50,99) +0.00 +0.45E-00; 
D3a 30 32 DX
D4a 33 30 DX
*
* OUTPUT STAGE
*
M5  45 46 99 99 POX L=1E-6 W=5.008E-05
M6  45 47 50 50 NOX L=1E-6 W=1.099E-04
EG1 99 46 POLY(1) (98,30) 7.607E-01 1
EG2 47 50 POLY(1) (30,98) 6.201E-01 1
*
* MODELS
*
.MODEL POX PMOS (LEVEL=2,KP=3.00E-05,VTO=-0.328,LAMBDA=0.01,RD=0)
.MODEL NOX NMOS (LEVEL=2,KP=3.00E-05,VTO=+0.328,LAMBDA=0.01,RD=0)
.MODEL PIX PMOS (LEVEL=2,KP=5.00E-05,VTO=-5.00E-01,LAMBDA=0.01)
.MODEL DX D(IS=1E-14,RS=0.1)
.MODEL DNOISE D(IS=1E-14,RS=0,KF=3.449E-11)
*
*
.ENDS AD8663
*
*$




