* AD8677 SPICE Macro-model
* Description: Amplifier
* Generic Desc: 8/30V, BIP, OP, Low Vos, Low Ib, 1X
* Developed by: RM, ADSiV apps
* Revision History: 08/10/2012 - Updated to new header style
* 0.0 (11/2005)
* Copyright 2005, 2012 by Analog Devices
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement.  Use of this model
* indicates your acceptance of the terms and provisions in the License Statement.
*
* BEGIN Notes: Model simulates typical values at Vs=±15V
*
* Not Modeled:
*    
* Parameters modeled include:
*
* END Notes
*
* Node Assignments
*                       noninverting input
*                       |   inverting input
*                       |   |    positive supply
*                       |   |    |   negative supply
*                       |   |    |   |   output
*                       |   |    |   |   |
*                       |   |    |   |   |
.SUBCKT AD8677          1   2   99  50  39
*
* INPUT STAGE & POLE AT 80 MHZ
*
R3   5  97    6.40E+01
R4   6  97    6.40E+01
C2   5   6    5E-12
I1   4  51    5.00E-02
IOS  1   2    1.00E-10
EOS  9  10    POLY(2) (31,98) (41,98) 4.50E-05 1  1
Q1   5  2  7  QX
Q2   6  9  8  QX
R5   7   4    0.0107
R6   8   4    0.0107
D1   2   1    DX
D2   1   2    DX
EN   10  1    12  0  1
GN1  0   2    15  0  1
GN2  0   1    18  0  1
*
EREF  98 0    33  0  1
EPLUS 97 0    99  0  1
ENEG  51 0    50  0  1
*
* VOLTAGE NOISE SOURCE WITH FLICKER NOISE
*
DN1  11  12   DEN
DN2  12  13   DEN
VN1  11   0   DC 2
VN2  0   13   DC 2
*
* CURRENT NOISE SOURCE WITH FLICKER NOISE
*
DN3  14  15   DIN
DN4  15  16   DIN
VN3  14   0   DC 2
VN4  0   16   DC 2
*
* SECOND CURRENT NOISE SOURCE
*
DN5  17  18   DIN
DN6  18  19   DIN
VN5  17   0   DC 2
VN6  0   19   DC 2
*
* GAIN STAGE & DOMINANT POLE AT 4.0 HZ
*
R7   20 98     4.95E+06
C3   20 98     500E-9
G1   98 20     5  6  2.94E-02
V1   97 21     1.2
V2   22 51     1.2
D5   20 21     DX
D6   22 20     DX
*
* POLE - ZERO AT 2.9MHZ / 6MHZ
*
R8   23 98     1
R9   23 24     1.25e3
C4   24 98     10e-12
G2   98 23     20 33  1
*
* ZERO - POLE AT 6.8MHZ / 40MHZ
*
R10  25 26     1
R11  26 98    100
L1   26 98     19E-12
G3   98 25     23 33  1
*
* POLE AT 60 MHZ
*
R12  27 98     1
C5   27 98     1E-9
G4   98 27     25 33 1
*
* ZERO AT 28 MHZ
*
R13  28 29     1
C6   28 29     -5.68E-9
R14  29 98     1E-6
E1   28 98     27 33  1E6
*
* COMMON-MODE GAIN NETWORK
*
RCM1  30 31  1.59E-01
CCM1  30 31  100E-6
RCM2  31 98  7.96E-04
ECM1  30 98  POLY(2) (2,98)(1,98) 0 3.16E-04 3.16E-04
*
* PSRR NETWORK
*
EPSY 40 98 POLY(1) (99,50) 0 2.11E+00
RSP1 40 41 5.31E+01
RPS2 41 98 7.96E-04
CPS3 40 41 100E-6
*
* POLE AT 80 MHZ
*
R16  32 98     1
C7   32 98     1.99E-9
G6   98 32     29 33  1
*
* OUTPUT STAGE
*
R17  33 97     1
R18  33 51     1
GSY  99 50     POLY(1) 99 50 1.8E-3 250E-6
F1   34  0     V3  1
F2   0  34     V4  1
R19  34 99     1.10E+02
R20  34 50     1.10E+02
L3   34 39     1E-7
G7   37 50     32 34  9.09E-03
G8   38 50     34 32  9.09E-03
G9   34 99     99 32  9.09E-03
G10  50 34     32 50  9.09E-03
V3   35 34     2.5
V4   34 36     3.1
D9   32 35     DX
D10  36 32     DX
D11  99 37     DX
D12  99 38     DX
D13  50 37     DY
D14  50 38     DY
*
* MODELS USED
*
.MODEL QX NPN(BF=5.00E+07)
.MODEL DX   D(IS=1E-15)
.MODEL DY   D(IS=1E-15 BV=50)
.MODEL DEN  D(IS=1E-12, RS=1.09K, KF=1.08E-16, AF=1)
.MODEL DIN  D(IS=1E-12, RS=19.3E-6, KF=4.28E-15, AF=1)
*
*
.ENDS AD8677
*
*$




